US09079918B2
4-Chloro-pyridine-2-carbonyl chloride
To a suspension of 4-chloro-pyridine-2-carboxylic acid (2.0 g, 12.8 mmol) in dichloroethane (43 mL) was added thionyl chloride (2.8 mL, 38.5 mmol) and DMF (2-3 drops). The suspension was warmed to 85° C. After 1 h, the resulting clear, yellow solution was cooled to rt and concentrated. The residue was dissolved in DCE and concentrated. This process was repeated two additional times to give a yellow liquid which crystallized upon standing to give a yellow solid.

reactant | 4-chloro-pyridine-2-carboxylic acid | 12.8 mmol, 2.0 g | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
reactant | thionyl chloride | 38.5 mmol, 2.8 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 43 mL | ClC(C)Cl | C2H4Cl2
catalyst | DMF | 2-3 drops | CN(C)C=O | C3H7NO
product | 4-Chloro-pyridine-2-carbonyl chloride | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
